US03954868
Step 1: 1,4-bis(4-benzoylphenoxy)butane
1,4-Diphenoxy-n-butane (24.2 g) and benzoyl chloride (29 g) are reacted in 250 ml of 1,2-dichloroethane in the presence of aluminum chloride (28 g) for for hours at 60° to yield 18.3 g (41% of theory) of colorless crystals mp 163°-4°.

reactant | 1,4-Diphenoxy-n-butane | 24.2 g | O(C1=CC=CC=C1)CCCCOC1=CC=CC=C1 | C16H18O2
reactant | benzoyl chloride | 29 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | aluminum chloride | 28 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 250 ml | ClCCCl | C2H4Cl2
product | 1,4-bis(4-benzoylphenoxy)butane | C(C1=CC=CC=C1)(=O)C1=CC=C(OCCCCOC2=CC=C(C=C2)C(C2=CC=CC=C2)=O)C=C1 | C30H26O4
